US07479575B2
a) Step 1: Synthesis of 2-(4-bromophenyl)-1-(4-butylphenyl) ethanone (Ve)
To a 1 L three-necked flask containing AlCl3 (40 g, 0.299 mol) in 1,2-dichloroethane (600 mL) under N2, butylbenzene (IVe) (49.7 mL, 0.299 mol) was added in one portion at −30° C. To this suspension (4-bromo-phenyl)-acetyl chloride (IIIa) (70 g, 0.299 mol) was added slowly over a period of 30min at such a rate that the internal temperature did not rise above −30° C. The reaction mixture was stirred at this temperature for 45 min and poured into an ice-cold solution of 1.5M HCl (1000 ml). The product was extracted into dichloromethane (2×500 ml), washed with 10% sodium bicarbonate solution (500 ml), water, brine and dried over Na2SO4. The solvent was evaporated under reduced pressure to obtain the titled compound as a white powder (m=90 g) in a 90.9% yield.

reactant | AlCl3 | 0.299 mol, 40 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | butylbenzene | 0.299 mol, 49.7 mL | C(CCC)C1=CC=CC=C1 | C10H14
reactant | (4-bromo-phenyl)-acetyl chloride | 0.299 mol, 70 g | BrC1=CC=C(C=C1)CC(=O)Cl | C8H6BrClO
reactant | HCl | 1.5M, 1000 ml | Cl | ClH
solvent | 1,2-dichloroethane | 600 mL | ClCCCl | C2H4Cl2
product | 2-(4-bromophenyl)-1-(4-butylphenyl) ethanone | 90 g, 90.9% yield | BrC1=CC=C(C=C1)CC(=O)C1=CC=C(C=C1)CCCC | C18H19BrO
